US07812017B2
4-Bromo-1-[(2-methylphenyl)sulfonyl]-1H-indole
Aq. 2.5 M NaOH (5 mL) was added to a stirring mixture of 4-bromo-1H-indole (1000 mg, 5.3 mmol), 2-methylbenzenesulfonyl chloride (1100 mg, 5.6 mmol) and tetrabutylammonium hydrogen sulfate (173 mg, 0.5 mmol) in DCM (10 mL). The reaction mixture was stirred at ambient temperature overnight. The mixture was diluted with DCM and water and the layers were separated. DCM was washed with water 2 times, dried (MgSO2) and concentrated to give 1.6 g of crude material that was purified using flash chromatography (SiO2, eluent EtOAc:hexane 9:1) giving the title product (1 g, 54%). MS (ESI+) for C15H12BrNO2S m/z 350 (M+H)+.

reactant | NaOH | 2.5 M, 5 mL | [OH-].[Na+]
reactant | 4-bromo-1H-indole | 5.3 mmol, 1000 mg | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | 2-methylbenzenesulfonyl chloride | 5.6 mmol, 1100 mg | CC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
catalyst | tetrabutylammonium hydrogen sulfate | 0.5 mmol, 173 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-Bromo-1-[(2-methylphenyl)sulfonyl]-1H-indole | 1 g, 54% | BrC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)C | C15H12BrNO2S
